US07834034B2
N-(2-aminophenyl)-5-[(benzylamino)methyl]-1-benzothiophene-2-carboxamide.
A mixture of ethyl 5-formyl-1-benzothiophene-2-carboxylate (100 mg, 0.427 mmol), acetic acid (0.100 mL, 1.78 mmol), NaHB(OAc)3 (270 mg, 1.27 mmol) and benzyl amine (0.150 mL, 1.23 mmol) in 2 mL of 1,2-dichloroethane was stirred overnight. The reaction mixture was partitioned between EtOAc and sat'd NaHCO3, the organic layer was dried (Na2SO4), and concentrated. The residue was then dissolved in 2:1 THF/water (3 mL), treated with LiOH (120 mg, 1.2 mmol) and stirred for 5 hours and concentrated. The residue was dried azeotropically with MeCN, dissolved in DMF (2 mL) and treated with EDC (160 mg, 0.84 mmol), HOBt (100 mg, 0.74 mmol) and 1,2-phenylenediamine (140 mg, 1.30 mmol). After stirring for 12 h, the reaction mixture was then concentrated and purified by reverse-phase chromatography (10-100% MeCN/water with 0.05% TFA). The fractions were poured into EtOAc and washed with sat'd NaHCO3, dried (Na2SO4) and concentrated giving the desired product: 1H NMR (600 MHz, DMSO-d6) δ 9.90 (s, 1H), 8.26 (s, 1H), 7.94 (d, J=8.2 Hz, 1H), 7.87 (s, 1H), 7.45 (d, J=8.5 Hz, 1H), 7.25-7.35 (m, 3H), 7.21 (d, J=7.6 Hz, 2H), 7.13 (d, J=6.7 Hz, 1H), 6.96 (t, J=7.0 Hz, 1H), 6.76 (d, J=7.9 Hz, 1H), 6.57 (t, J=7.3 Hz, 1H), 4.96 (br s, 2H), 3.79 (bs s, 2H), 3.67 (br s, 2H); MS: cal'd 388 (MH+), exp 388 (MH+).

reactant | ethyl 5-formyl-1-benzothiophene-2-carboxylate | 0.427 mmol, 100 mg | C(=O)C=1C=CC2=C(C=C(S2)C(=O)OCC)C1 | C12H10O3S
reactant | acetic acid | 1.78 mmol, 0.100 mL | C(C)(=O)O | C2H4O2
reactant | benzyl amine | 1.23 mmol, 0.150 mL | C(C1=CC=CC=C1)N | C7H9N
reactant | LiOH | 1.2 mmol, 120 mg | [Li+].[OH-]
reactant | HOBt | 0.74 mmol, 100 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | 1,2-phenylenediamine | 1.30 mmol, 140 mg | C1(=C(C=CC=C1)N)N | C6H8N2
solvent | 1,2-dichloroethane | 2 mL | ClCCCl | C2H4Cl2
solvent | EDC | 0.84 mmol, 160 mg
product | N-(2-aminophenyl)-5-[(benzylamino)methyl]-1-benzothiophene-2-carboxamide | NC1=C(C=CC=C1)NC(=O)C=1SC2=C(C1)C=C(C=C2)CNCC2=CC=CC=C2 | C23H21N3OS
